US05234946
Methyl 3-formylbenzoate (0.67 g) was dissolved in 10 ml of methanol, and 0.74 g of methyl orthoformate and 8 mg of p-toluenesulfonic acid were added. The mixture was stirred at room temperature for 10 hours. Sodium methoxide was added to the reaction mixture to make it basic, and then the solvent was evaporated. The residue was dissolved in ethyl acetate, and washed with a 5% aqueous solution of sodium hydrogen carbonate. The solvent was then evaporated to give 0.75 g of methyl 3-formylbenzoate dimethyl acetal.

reactant | Methyl 3-formylbenzoate | 0.67 g | C(=O)C=1C=C(C(=O)OC)C=CC1 | C9H8O3
reactant | methyl orthoformate | 0.74 g | C(OC)([O-])[O-]
reactant | Sodium methoxide | C[O-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
catalyst | p-toluenesulfonic acid | 8 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | methyl 3-formylbenzoate dimethyl acetal | 0.75 g | COC(C1=CC(=CC=C1)C=O)(OC)OC | C11H14O4
